US04929630
5-(N-benzyloxycarbonyl-L-phenylalaninamidomethyl)-3-bromo-4,5-dihydroisoxazole
To a solution of N-benzyloxycarbonyl-L-phenylalanine allyl amide, 700 mg, in 40 ml of EtOAc and 0.75 ml of water, was added 870 mg of NaHCO3 and in small portions, dibromoformaldoxime, 631 mg. The progress of the reaction was monitored by tlc (40% EtOAc/hexane). After completion of the reaction (2-4 hrs), the reaction mixture was transferred to a separatory funnel and washed repeatedly with 5% NaHCO3, brine, and dried over anh. MgSO4. Filtration and concentration gave a light yellow viscous oil. Purification by chromatography on silica gel (15% EtOAc/hexane) gave product as a 1:1 mixture of stereoisomers. Crystallization from CHCl3 /hexane gave crystalline product, m.p. 122°-125° C. Anal. Calcd for C21H22BrN3O4 : C, 54.79; H, 4.82; N, 9.13. Found: C, 54.82; H, 4.70; N, 8.94. 13C NMR (20 MHz, CDCl3): delta 172.0, 171.9 (CON), 155.82 (OCONH), 137.7, 137.6 (BrC=N), 136.2, 135.9 (Ph), 126.9-129.2 (Ph), 80.2 (CHO), 66.9 (PhCH2O), 56.3 (CHN), 43.8, 43.6 (CH2CHO), 41.4, 41.6 (CH2N), 38.4, 38.5 (PhCH2). The individual isomers were separated by HPLC on silica gel. More polar isomer: m.p., 151°-153° C. IR (KBr): 3320, 1690, 1650, 1522 cm-1. 1H NMR (80 MHz, CDCl3): delta 7.12-7.41 (m, 10H, Ph), 6.18-6.41 (m, 1H, NH), 5.27 (d, 1H, NH), 5.07 (s, 2H, PhCH2O), 4.55-4.92 (:m, 1H, CHO), 4.28-4.56 (m, 1H, CHN), 3.4-3.57 (m, 2H:, CH2NH), 3.08 (d, 2H, PhCH2), 2.62-3.21 (m, 2H, CH2CHO). [α]D23 =+49.6 (c 0.03, CHCl3). Less polar isomer: m.p. 155°-157° C. IR (KBr): 3320, 1688, 1650, 1528 cm-1. 1H NMR (300 MHz, CDCl3): delta 7.13-7.39 (m, 10H, Ph), 6.21-6.28 (broad, 1 H, NH), 5.23 (d, 1H, NH), 5.1 (s, 2H, PhCH2O), 4.66-4.78 (m, 1H, CHO), 4.37-4.46 (m, 1H, CHN), 3.46-3.53 (m, 2H, CH2N), 3.17 (dd, 1H, CHCHO), 3.08 (d, 2H, PhCH2), 2.84 (dd, 1H, CHCHO). [α]D23 =-58.7° C. (c 0.03, CHCl3).

reactant | N-benzyloxycarbonyl-L-phenylalanine allyl amide | C(C=C)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C20H22N2O3
reactant | NaHCO3 | 870 mg | C(=O)(O)[O-].[Na+]
reactant | dibromoformaldoxime | BrC(=NO)Br | CHBr2NO
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | EtOAc | 40 ml | CCOC(=O)C | C4H8O2
solvent | water | 0.75 ml | O | H2O
product | 5-(N-benzyloxycarbonyl-L-phenylalaninamidomethyl)-3-bromo-4,5-dihydroisoxazole | C(C1=CC=CC=C1)OC(=O)N(C([C@@H](N)CC1=CC=CC=C1)=O)CC1CC(=NO1)Br | C21H22BrN3O4
